US03954754
EXAMPLE 14: 6-(3,3-Diphenylpropionyl)-3-hydrazino-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine
7.6 g of 3-chloro-6-(3,3-diphenylpropionyl)-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine in 40 cc of hydrazine hydrate and 40 cc of dioxane are stirred at a bath temperature of 100° during 12 hours. The mixture is cooled with ice, whereupon the title compound precipitates and is recrystallized from ethanol/water (ratio 6:1). The title compound has a M.P. of 208°-211° (decomp.).

reactant | 3-chloro-6-(3,3-diphenylpropionyl)-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine | 7.6 g | ClC1=CC2=C(N=N1)CCN(C2)C(CC(C2=CC=CC=C2)C2=CC=CC=C2)=O | C22H20ClN3O
reactant | hydrazine hydrate | 40 cc | O.NN
solvent | dioxane | 40 cc | O1CCOCC1 | C4H8O2
product | 6-(3,3-Diphenylpropionyl)-3-hydrazino-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine | C1(=CC=CC=C1)C(CC(=O)N1CC2=C(N=NC(=C2)NN)CC1)C1=CC=CC=C1 | C22H23N5O
